US05047411
Acetyl chloride (1.5 ml) was dropwise added to a mixture of 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine (5.0 g) and sodium bicarbonate (3.0 g) in acetone (30 ml) and water for 10 minutes under ice-cooling and the mixture was stirred for 30 minutes at the same temperature. To the mixture was added a solution of ethyl acetate, tetrahydrofuran and water, and separated organic layer was washed with brine. The mixture was dried over magnesium sulfate and concentrated to give 2-[2-(4-acetamido-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine (3.51 g).

reactant | Acetyl chloride | 1.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine | 5.0 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1C)O | C17H19N3O
reactant | sodium bicarbonate | 3.0 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[2-(4-acetamido-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine | 3.51 g | C(C)(=O)NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1C)O | C19H21N3O2
